US09376422B2
Step 5: Synthesis of 3-bromo-6-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxamide
To a stirred solution of 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylic acid (73 mg, 0.21 mmol) in DMF (2 ml) were added DIPEA (56 μl, 0.31 mmol) and HATU (95 mg, 0.25 mmol) at 0° C. The reaction was stirred at 0° C. for 5 min after which time 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 52 mg, 0.31 mmol) was added and the reaction was stirred at room temperature for 16 h. The reaction mixture was then poured onto 50 ml of water, the aqueous phase was extracted with EtOAc (3×50 ml), washed with brine (50 ml) dried (Na2SO4) and evaporated to give an oil. The product was then purified using a 5 g silica Isolute column eluting with 0% to 4% MeOH in DCM and evaporated to give a glassy solid which was triturated with diethyl ether and filtered and dried in a vacuum oven at 40° C. for 24 h to afford the title compound as a white powder (50 mg, 41%). LC-MS 99%, m/z=483.1/485.0/486.9, 1H NMR (500 MHz, CDCl3) δ 10.94 (br. s, 1H), 8.14-7.98 (m, 1H), 6.83 (s, 1H), 5.92 (s, 1H), 4.55 (d, J=6.1 Hz, 2H), 4.15-3.94 (m, 2H), 3.93-3.70 (m, 1H), 3.40 (t, J=11.0 Hz, 2H), 2.78 (s, 3H), 2.39 (s, 3H), 2.28 (s, 3H), 1.99-1.82 (m, 2H), 1.79-1.64 (m, 2H).

reactant | 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylic acid | 0.21 mmol, 73 mg | BrC=1C(=NC(=CC1N(C1CCOCC1)C)Cl)C(=O)O | C12H14BrClN2O3
reactant | DIPEA | 0.31 mmol, 56 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.25 mmol, 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.31 mmol, 52 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-bromo-6-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxamide | 50 mg, 41% | BrC=1C(=NC(=CC1N(C1CCOCC1)C)Cl)C(=O)NCC=1C(NC(=CC1C)C)=O | C20H24BrClN4O3
